* gnetlist -g spice-sdb -o rectifier_capacitor_filter.net rectifier_capacitor_filter.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from 1N4007.mod vvvvvvvv
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on May 30, 03
* MODEL FORMAT: PSpice
.MODEL D1N4007 D
+IS=7.02767e-09 RS=0.0341512 N=1.80803 EG=1.05743
+XTI=5 BV=1000 IBV=5e-08 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=1e-07
+KF=0 AF=1


*^^^^^^^^  End of included SPICE model from 1N4007.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
L 1 0 10mH 
Resr 2 0 0.1  
Vin in b sin(0 20 50 0 0)
C out 2 2000uF  
Rout out 1 25  
Rs in a 0  
D4 0 b D1N4007 
D3 0 a D1N4007 
D2 b out D1N4007 
D1 a out D1N4007 
.end
